US04788209
The 3-(1-hexenyl)nitrobenzene (11.0 g, 0.054 m) was dissolved in absolute ethanol (500 ml), treated with 1.1 g of 10% palladium on charcoal catalyst and hydrogenated on a Parr apparatus at about 45 psi for 21/2 hours. Hydrogen uptake had ceased. The reaction mixture was filtered to remove catalyst, concentrated under vacuum, and then resulting oil purified by Kuglrohr distillation (BP 75°-85° C. at 0.05 mm Hg) to yield 3-hexylaniline (8.6 g, 90% yield) as a clear colorless oil.

reactant | 3-(1-hexenyl)nitrobenzene | 11.0 g | C(=CCCCC)C=1C=C(C=CC1)[N+](=O)[O-] | C12H15NO2
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.1 g | [Pd] | Pd
product | 3-hexylaniline | 8.6 g, 90% yield | C(CCCCC)C=1C=C(N)C=CC1 | C12H19N
